US07745446B2
GI. [4-(4-Amino-phenylcarbamoyl)-benzyl]-carbamic acid tert-butyl ester
To a solution of 4-(tert-butoxycarbonylamino-methyl)-benzoic acid (1.005 g) and N-hydroxy-benzotriazole (HOBt)(0.642 g) in DMF (30 ml) are added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (EDC)(2.76 g) and triethylamine (2.005 ml). The mixture is stirred for 1 h at ambient temperature. This solution is added at 0° C. slowly to a solution of 1,4-diaminobenzene (0.43 g) and triethylamine (0.45 ml) in DMF (5 ml). After completion of the chemical reaction the mixture is evaporated at high vacuum and the residue is partitioned between ethyl acetate and an aqueous saturated sodium bicarbonate solution. The organic phase is dried over sodium sulfate and the crude product is purified by silica gel flash chromatography. A colorless solid (0.735 g) is obtained in 55% yield.

reactant | 4-(tert-butoxycarbonylamino-methyl)-benzoic acid | 1.005 g | C(C)(C)(C)OC(=O)NCC1=CC=C(C(=O)O)C=C1 | C13H17NO4
reactant | N-hydroxy-benzotriazole | 0.642 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 2.76 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1,4-diaminobenzene | 0.43 g | NC1=CC=C(C=C1)N | C6H8N2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 0.45 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 2.005 ml | C(C)N(CC)CC | C6H15N
product | [4-(4-Amino-phenylcarbamoyl)-benzyl]-carbamic acid tert-butyl ester | 0.735 g, 55% yield | C(C)(C)(C)OC(NCC1=CC=C(C=C1)C(NC1=CC=C(C=C1)N)=O)=O | C19H23N3O3
